US08314138B2
Synthesis of 2-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 2-iodo-ethanol as described in Example 49 and isolated as a yellow oil (0.11 g, 55% yield). 1H NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 8.54 (d, J=3 Hz, 1H), 7.71 (d, J=4 Hz, 1H), 7.50 (d, J=2 Hz, 1H), 7.27-7.31 (m, 1H), 6.82 (d, J=2 Hz, 1H), 6.24-6.28 (bm, 1H), 4.62 (d, J=8 Hz, 2H), 4.29 (t, J=4 Hz, 2H), 4.04 (t, J=4 Hz, 2H), 2.89-2.95 (bm, 1H), 2.74 (s, 3H); MS (M+H)+=344.1; Rt=0.85 min; HRMS (M+H)+=344.12.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 2-iodo-ethanol | ICCO | C2H5IO
product | 2-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCO)C | C16H17N5O2S
